US05977105
(±)-(E)-1-(4-(2-Phenylethenyl)phenoxy)-5-(3-pyridyl)-2-pentanol
Prepared according to the method described in Example 96d) from sodium hydride (60% dispersion in mineral oil, 0.045 g), trans-4-hydroxystilbene (0.219 g) and (±)-3-hydroxy-5-(3-pyridyl)-1-pentyl para-toluenesulfonate (0.250 g) in anhydrous dimethylformamide (5 ml). The crude product was purified by column chromatography over silica eluting with methanol:dichloromethane (1:19) to give the title compound (0.167 g) as a solid which was recrystallised from ethyl acetate:hexane.

reactant | sodium hydride | 0.045 g | [H-].[Na+]
reactant | trans-4-hydroxystilbene | 0.219 g | OC1=CC=C(C=C1)\C=C\C1=CC=CC=C1 | C14H12O
reactant | (±)-3-hydroxy-5-(3-pyridyl)-1-pentyl para-toluenesulfonate | 0.250 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(CCC=1C=NC=CC1)O)C | C17H21NO4S
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (±)-(E)-1-(4-(2-Phenylethenyl)phenoxy)-5-(3-pyridyl)-2-pentanol | 0.167 g | C1(=CC=CC=C1)/C=C/C1=CC=C(OCC(CCCC=2C=NC=CC2)O)C=C1 | C24H25NO2
